US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-methyl-5-(3-trifluoromethyl-benzyl)-thiazol-2-yl]-amine
The title compound was prepared in analogy to example 7 without purification of the intermediate from 161 mg (1 mmol) 3-trifluoromethylaniline and 421 mg (6 mmol) methyl vinylketone. The crude chloroketone was used without further purification in the next step with 53 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 50 mg (55%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-methyl-5-(3-trifluoromethyl-benzyl)-thiazol-2-yl]-amine as a brown solid. MS ISP (m/e): 459.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.18 (s, 1H), 7.66-7.53 (m, 7H), 7.23 (s, 1H), 7.01 (s, 1H), 4.11 (s, 2H), 3.77 (s, 3H), 2.25 (s, 3H), 2.14 (s, 3H).

reactant | 3-trifluoromethylaniline | 1 mmol, 161 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | methyl vinylketone | 6 mmol, 421 mg | CC(=O)C=C | C4H6O
reactant | chloroketone | ClC(=O)Cl | CCl2O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.2 mmol, 53 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-methyl-5-(3-trifluoromethyl-benzyl)-thiazol-2-yl]-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=C(N1)C)CC1=CC(=CC=C1)C(F)(F)F | C23H21F3N4OS
